US07439397B2
(3R)-N-(tert-Butyl)-3-(2-hydroxy-5-methylphenyl)-N,N-dimethyl-3-phenylpropan-1-aminium bromide
Following the general procedure of Example 2 and making non critical variations, but starting with methyl bromide and 2-{(1R)-3-[tert-butyl(methyl)amino]-1-phenylpropyl}-4-methylphenol, the title compound is obtained.

reactant | methyl bromide | CBr | CH3Br
reactant | 2-{(1R)-3-[tert-butyl(methyl)amino]-1-phenylpropyl}-4-methylphenol | C(C)(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C)O)C | C21H29NO
product | (3R)-N-(tert-Butyl)-3-(2-hydroxy-5-methylphenyl)-N,N-dimethyl-3-phenylpropan-1-aminium bromide | [Br-].C(C)(C)(C)[N+](CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C)O)(C)C | InChI=1S/C22H31NO.BrH/c1-17-12-13-21(24)20(16-17)19(18-10-8-7-9-11-18)14-15-23(5,6)22(2,3)4;/h7-13,16,19H,14-15H2,1-6H3;1H/t19-;/m1./s1
